* J:\Documents\fall_semesters\fall2025\ecen380\lab_4\ecen_380_lab_4\TASK1\confirming_right_capacitors.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N001 N005 {H1_C1}
C2 0 N006 {H1_C2}
R1 N005 N004 {R}
R2 N006 N005 {R}
V1 N004 0 SINE(0 1 60) AC 1
R3 N002 N001 {R}
R4 N003 N002 {R}
C3 N002 OUT {H2_C1}
C4 0 N003 {H2_C2}
X§U1 N006 N001 Vp Vn N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 N003 OUT Vp Vn OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 Vp 0 1
R5 Vp 0 1
R6 0 Vn 1
.param R=1e3, H1_C1=0.12e-6, H1_C2 = 0.20e-9, H2_C1=0.576e-9, H2_C2=0.499e-9
.ac lin 500 1 4e3
.lib UniversalOpAmp2.lib
.backanno
.end
